US07470723B2
A stirred mixture of 4-bromo-2-ethoxy-1-methoxy-benzene (1.88 g, 8.1 mmol) and dry THF (15 mL) was cooled to −78° C., evacuated and refilled with nitrogen for 10 cycles. To this clear solution was slowly added n-butyllithium (3.3 mL, 8.1 mmol) and stirred for 20 min. Then a mixture of 3-methoxy-benzaldehyde (1.01 g, 7.4 mmol) in dry THF (10 mL) was added and stirred for 1 hour at −78° C. The mixture was quenched with isopropanol (3.4 mL, 44 mmol) and added water (10 mL). The mixture was extracted with EtOAc (3×50 mL). The combined organic phases were washed with water (2×50 mL), dried over MgSO4 and concentrated to oil, which was purified by flash column chromatography (EtOAc/Hexane) to give (3-ethoxy-4-methoxy-phenyl)-(3-methoxy-phenyl)-methanol as an oil (1.92 g, 90% yield): 1H NMR (CDCl3) δ 1.44 (t, J=7 Hz, 3H, CH2CH3), 2.17 (d, J=4 Hz, 1H, OH), 3.79 (s, 3H, OCH3), 3.85 (s, 3H, OCH3), 4.07 (q, J=7 Hz, 2H, CH2CH3), 5.76 (d, J=4 Hz, 1H, CH), 6.78-7.28 (m, 7H, Ar). The product was used in the next step without further purification.

reactant | 4-bromo-2-ethoxy-1-methoxy-benzene | 8.1 mmol, 1.88 g | BrC1=CC(=C(C=C1)OC)OCC | C9H11BrO2
reactant | n-butyllithium | 8.1 mmol, 3.3 mL | C(CCC)[Li]
reactant | 3-methoxy-benzaldehyde | 7.4 mmol, 1.01 g | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | isopropanol | 44 mmol, 3.4 mL | C(C)(C)O | C3H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | (3-ethoxy-4-methoxy-phenyl)-(3-methoxy-phenyl)-methanol | 1.92 g, 90% yield | C(C)OC=1C=C(C=CC1OC)C(O)C1=CC(=CC=C1)OC | C17H20O4
